US09120747B2
(2R,4R)-5-(4-Bromophenyl)-2-hydroxy-4-[(3-hydroxy-3H-benzotriazole-5-carbonyl)-amino]-pentanoic Acid Ethyl Ester
HCTU (837 mg, 2.0 mmol) was added to a solution of 1-hydroxy-1H-1,2,3-benzotriazole-6-carboxylic acid (362 mg, 2.0 mmol) and the mixture was stirred at room temperature for 10 minutes. DIPEA (529 μL, 3.0 mmol) and (2R,4R)-4-amino-5-(4-bromophenyl)-2-hydroxy-pentanoic acid ethyl ester (320 mg, 1.0 mmol) were then added and the resulting mixture was stirred at room temperature for 15 minutes. The mixture was concentrated in vacuo and the resulting residue was purified (C18 column, 55 g, 20-70% MeCN in water with 5% TFA) to yield the title compound as a white solid 365 mg).

reactant | HCTU | 2.0 mmol, 837 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-hydroxy-1H-1,2,3-benzotriazole-6-carboxylic acid | 2.0 mmol, 362 mg | ON1N=NC2=C1C=C(C=C2)C(=O)O | C7H5N3O3
reactant | DIPEA | 3.0 mmol, 529 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (2R,4R)-4-amino-5-(4-bromophenyl)-2-hydroxy-pentanoic acid ethyl ester | 1.0 mmol, 320 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)Br)N)O)=O | C13H18BrNO3
product | (2R,4R)-5-(4-Bromophenyl)-2-hydroxy-4-[(3-hydroxy-3H-benzotriazole-5-carbonyl)-amino]-pentanoic Acid Ethyl Ester | 365 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)Br)NC(=O)C1=CC2=C(N=NN2O)C=C1)O)=O | C20H21BrN4O5
